US06211215B1
In substantially the same manner as in Reference Example 12, 3-[3-methoxy-4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propanol was allowed to react with methanesulfonyl chloride to give 3-[3-methoxy-4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate. The yield was 99%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 130-131° C.

reactant | 3-[3-methoxy-4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propanol | COC=1C=C(C=CC1OCC=1N=C(OC1)\C=C\C1=CC=CC=C1)CCCO | C22H23NO4
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 3-[3-methoxy-4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate | yield was 99% | CS(=O)(=O)OCCCC1=CC(=C(C=C1)OCC=1N=C(OC1)\C=C\C1=CC=CC=C1)OC | C23H25NO6S
